US08039455B2
b) 5-Benzyloxycarbonylamino-5-hydroxymethyl-benzoic acid methyl ester
5-Benzyloxycarbonylamino-isophthalic acid monomethyl ester (10 g, 30.1 mmol, 1 eq) and Et3N (5 ml, 36.1 mmol, 1.2 eq) are suspended in a mixture of THF (200 ml) and N-methylpyrrolidone (200 ml). Isopropylchloroformate (42 ml, 1 N in toluene, 42 mmol, 1.4 eq) is added, and the reaction mixture is stirred for 30 min at 0° C. and then diluted with diethyl ether and water. The organic layer is washed with 0.1 N HCl and brine. NaBH4 (3.82 g, 101 mmol, 3.36 eq) is dissolved in H2O (100 ml), and the solution is added to the reaction mixture, which is then stirred for 1 h. Diethyl ether and H2O are added, and the organic layer is separated, washed with brine, dried over sodium sulfate, filtered and concentrated. The residue is purified by column chromatography using EtOAc/hexane in a ratio of 1 to 2 to give the product.

reactant | 5-Benzyloxycarbonylamino-isophthalic acid monomethyl ester | 30.1 mmol, 10 g, 1 eq | COC(C1=CC(C(=O)O)=CC(=C1)NC(=O)OCC1=CC=CC=C1)=O | C17H15NO6
reactant | Et3N | 36.1 mmol, 5 ml, 1.2 eq | CCN(CC)CC | C6H15N
reactant | Isopropylchloroformate | 42 mmol, 1 N, 42 ml, 1.4 eq | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | NaBH4 | 101 mmol, 3.82 g, 3.36 eq | [BH4-].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | N-methylpyrrolidone | 200 ml | CN1C(CCC1)=O | C5H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | H2O | 100 ml | O | H2O
product | 5-Benzyloxycarbonylamino-5-hydroxymethyl-benzoic acid methyl ester | COC(C=1C=CCC(C1)(CO)NC(=O)OCC1=CC=CC=C1)=O | C17H19NO5
